US08022062B2
Dissolve 5-aminomethyl-2-chloro-pyridine (2 g, 14 mmol) and di-tert-butyl-dicarbonate (3.37 g, 15.4 mmol) in DCM (30 mL) and stir at room temperature for 2 h. Concentrate the reaction mixture and purify by chromatography on silica gel eluting with hexane/EtOAc (10:1 and 5:1) to give 5-(tert-butoxycarbonylamino-methyl)-2-chloro-pyridine as a yellow solid (3.6 g, 100%). MS (ES+) m/z: 243 (M+H)+. Dissolve 5-tert-butoxycarbonylamino-methyl)-2-chloro-pyridine (1 g, 4.12 mmol) in a mixture of ethanol (15 mL) and DMF (5 mL), and add potassium carbonate (427 mg, 3.09 mmol), palladium(II) acetate (92 mg, 0.4 mmol) and diphenylphosphinoferrocene (240 mg, 0.44 mmol). Pressurize the mixture 25 to 15 psi with carbon monoxide gas and heat the reaction mixture to 90° C. for 16 h. Filter the reaction mixture, concentrate the filtrate, and partition the residue between water and hexane/EtOAc (1:1). Dry the organic layer over Na2SO4, filter, and concentrate in vacuo. Purify the residue by chromatography on silica gel eluting with hexane/EtOAc (3:2) to give 5-(tert-butoxycarbonylamino-methyl)-pyridine-2-carboxylic acid ethyl ester as a brown oil (920 mg, 80%). MS (ES+) m/z: 281 (M+H)+. Dissolve 5-(tert-butoxycarbonylamino-methyl)pyridine-2-carboxylic acid ethyl ester (920 mg, 3.28 mmol) in a mixture of water/THF (1:2, 15 mL) and add lithium hydroxide (87 mg, 3.61 mmol). Stir the mixture at ambient temperature for 4 h and concentrate to a solid. Dry the material by azeotrope distillation with toluene to give the desired intermediate as a brown solid (1 g, 100%). MS (ES+) m/z: 253 (M+H)+.

reactant | 5-aminomethyl-2-chloro-pyridine | 14 mmol, 2 g | NCC=1C=CC(=NC1)Cl | C6H7ClN2
reactant | di-tert-butyl-dicarbonate | 15.4 mmol, 3.37 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 5-(tert-butoxycarbonylamino-methyl)-2-chloro-pyridine | 3.6 g, 100% | C(C)(C)(C)OC(=O)NCC=1C=CC(=NC1)Cl | C11H15ClN2O2
